### PR TITLE
[Merged by Bors] - chore: replace nhd with nhds

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 1]
```diff
@@ -12,7 +12,7 @@ Main statements:
 
 * `MeromorphicAt`: definition of meromorphy at a point
 * `MeromorphicAt.iff_eventuallyEq_zpow_smul_analyticAt`: `f` is meromorphic at `z₀` iff we have
-  `f z = (z - z₀) ^ n • g z` on a punctured nhd of `z₀`, for some `n : ℤ` and `g` analytic at z₀.
+  `f z = (z - z₀) ^ n • g z` on a punctured nhds of `z₀`, for some `n : ℤ` and `g` analytic at z₀.
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Basic.lean:15]: how about "neighbo(u)rhoods"?

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 2]
```diff
@@ -566,7 +577,7 @@ theorem toMeromorphicNFOn_eqOn_codiscrete (hf : MeromorphicOn f U) :
 If `f` is meromorphic on `U` and `x ∈ U`, then `f` and its conversion to normal
 form on `U` agree in a punctured neighborhood of `x`.
 -/
-theorem MeromorphicOn.toMeromorphicNFOn_eq_self_on_nhdNE
+theorem MeromorphicOn.toMeromorphicNFOn_eq_self_on_nhdsNE
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean:580]: Is this missing a deprecation?

File: Mathlib/FieldTheory/KrullTopology.lean [hunk 3]
```diff
@@ -176,7 +176,7 @@ theorem IntermediateField.fixingSubgroup_isOpen {K L : Type*} [Field K] [Field L
     IsOpen (E.fixingSubgroup : Set (L ≃ₐ[K] L)) := by
   have h_basis : E.fixingSubgroup.carrier ∈ galGroupBasis K L :=
     ⟨E.fixingSubgroup, ⟨E, ‹_›, rfl⟩, rfl⟩
-  have h_nhd := GroupFilterBasis.mem_nhds_one (galGroupBasis K L) h_basis
+  have h_nhds := GroupFilterBasis.mem_nhds_one (galGroupBasis K L) h_basis
   exact Subgroup.isOpen_of_mem_nhds _ h_nhd
```
Comment (grunweg) [inline Mathlib/FieldTheory/KrullTopology.lean:180]:
```suggestion
  exact Subgroup.isOpen_of_mem_nhds _ h_nhds

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 4]
```diff
@@ -133,7 +133,7 @@ uniformly to `g`, then the sum converges locally uniformly. Note that this is no
 and the converse is only true if the domain is locally compact."]
 lemma hasProdLocallyUniformlyOn_of_of_forall_exists_nhd
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:134]: Rename this lemma also?

File: Mathlib/Topology/UniformSpace/LocallyUniformConvergence.lean [hunk 5]
```diff
@@ -173,13 +173,13 @@ lemma tendstoLocallyUniformlyOn_of_forall_exists_nhd
   exact htr.mono_left <| prod_mono_right _ <| le_principal_iff.mpr ht
 
 /-- If every `x` has a neighbourhood on which `F i` tends uniformly to `f`, then `F i` tends
-locally uniformly to `f`. (Special case of `tendstoLocallyUniformlyOn_of_forall_exists_nhd`
+locally uniformly to `f`. (Special case of `tendstoLocallyUniformlyOn_of_forall_exists_nhds`
 where `s = univ`.) -/
 lemma tendstoLocallyUniformly_of_forall_exists_nhd
```
Comment (grunweg) [inline Mathlib/Topology/UniformSpace/LocallyUniformConvergence.lean:178]: Rename this one as well?

**Review by grunweg — COMMENTED** [review]
Thanks a lot for doing this! (Is this exhaustive? In any case, these changes are good - so let's land them.)
maintainer delegate

**Comment by grunweg** [comment]
For the record: the new changes also LGTM.

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 6]
```diff
@@ -284,26 +288,33 @@ lemma MeromorphicAt.eqOn_compl_singleton_toMermomorphicNFAt (hf : MeromorphicAt
...
+private lemma AnalyticAt.eventuallyEq_nhdsNE_iff_eventuallyEq_nhds {g : 𝕜 → E} {z₀ : 𝕜}
     (hf : AnalyticAt 𝕜 f z₀) (hg : AnalyticAt 𝕜 g z₀) (hfg : f =ᶠ[𝓝[≠] z₀] g) :
     f =ᶠ[𝓝 z₀] g := by
   rcases ((hf.sub hg).eventually_eq_zero_or_eventually_ne_zero) with h | h
   · exact Filter.eventuallyEq_iff_sub.2 h
   · simpa using (Filter.eventually_and.2 ⟨Filter.eventuallyEq_iff_sub.mp hfg, h⟩).exists
 
+@[deprecated (since := "2025-05-22")]
+alias AnalyticAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd :=
+  AnalyticAt.eventuallyEq_nhdsNE_iff_eventuallyEq_nhds
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/NormalForm.lean]: Good point. I've removed the alias. But since there's no reason why this lemma should be private, I've also removed `private`, and renamed the lemma as it's not an iff statement.

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 7]
```diff
@@ -284,12 +288,15 @@ lemma MeromorphicAt.eqOn_compl_singleton_toMermomorphicNFAt (hf : MeromorphicAt
...
+lemma MeromorphicAt.eq_nhdsNE_toMeromorphicNFAt (hf : MeromorphicAt f x) :
     f =ᶠ[𝓝[≠] x] toMeromorphicNFAt f x :=
   eventually_nhdsWithin_of_forall (fun _ hz ↦ hf.eqOn_compl_singleton_toMermomorphicNFAt hz)
 
+@[deprecated (since := "2025-05-22")]
+alias MeromorphicAt.eq_nhdNE_toMeromorphicNFAt := MeromorphicAt.eq_nhdsNE_toMeromorphicNFAt
+
 /-- Two analytic functions agree on a punctured neighborhood iff they agree on a neighborhood. -/
-private lemma AnalyticAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd {g : 𝕜 → E} {z₀ : 𝕜}
+lemma AnalyticAt.eventuallyEq_nhds_of_nhdsNE {g : 𝕜 → E} {z₀ : 𝕜}
```
Comment (urkud) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean:299]: I would leave this lemma as `private`, because the non-`private` version should be stated for `ContinuousAt` functions, not `AnalyticAt`.
Otherwise LGTM. Thanks!
bors d+

Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/NormalForm.lean]: Then I've simply removed the lemma, because it's not used anywhere and a private lemma which is not used is not very useful...
